US04332948
2.9 g of α-methylcinnamaldehyde and 2.4 g of 1-methyl-1-phenylhydrazine were added to 50 ml of ethanol. To the mixture, two or three drops of 1 N hydrochloric acid were added. The mixture was heated and refluxed for about one hour. The reaction mixture was cooled and the crystals then separated, which were then collected on a suction funnel. The thus obtained crude α-methylcinnamaldehyde 1-methyl-1-phenylhydrazone was recrystallized from ethanol. The yield was 3.6 g (72.0%) of light yellow scalelike crystals which melt at 111.0°-112.0° C.

reactant | α-methylcinnamaldehyde | 2.9 g | CC(C=O)=CC1=CC=CC=C1 | C10H10O
reactant | 1-methyl-1-phenylhydrazine | 2.4 g | CN(N)C1=CC=CC=C1 | C7H10N2
catalyst | hydrochloric acid | 1 N, three drops | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | α-methylcinnamaldehyde 1-methyl-1-phenylhydrazone | CN(N=CC(=CC1=CC=CC=C1)C)C1=CC=CC=C1 | C17H18N2
